US07947690B2
A mixture of 400 mg of 1-[2-(4-chloro-2,5-difluorophenyl)-6,6-dioxido-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl]piperidin-4-one, 10 ml of methylene chloride, 65 μl of aminoethanol, and two drops of acetic acid was stirred at ambient temperature for 1 hour, here was then added 617 mg of sodium triacetoxyborohydride, and the mixture was stirred at ambient temperature for 3 hours. Saturated aqueous sodium bicarbonate was added to the reaction mixture, and the resultant mixture was extracted with chloroform-THF mixed solvent. The organic phase obtained was washed with brine and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue obtained was dissolved in THF-MeOH, here was added 4M HCl-dioxane solution, the solution was concentrated under reduced pressure, and the residue was recrystallized from EtOH-acetonitrile to yield 426 mg of 2-({1-[2-(4-chloro-2,5-difluorophenyl)-6,6-dioxido-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl]piperidin-4-yl}amino)ethanol dihydrochloride.

reactant | 1-[2-(4-chloro-2,5-difluorophenyl)-6,6-dioxido-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl]piperidin-4-one | 400 mg | ClC1=CC(=C(C=C1F)C=1N=C(C2=C(N1)CS(C2)(=O)=O)N2CCC(CC2)=O)F | C17H14ClF2N3O3S
reactant | aminoethanol | 65 μl | NC(C)O | C2H7NO
reactant | sodium triacetoxyborohydride | 617 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | HCl dioxane | 4M | Cl.O1CCOCC1
catalyst | acetic acid | two drops | C(C)(=O)O | C2H4O2
solvent | THF MeOH | C1CCOC1.CO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-({1-[2-(4-chloro-2,5-difluorophenyl)-6,6-dioxido-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl]piperidin-4-yl}amino)ethanol dihydrochloride | 426 mg | Cl.Cl.ClC1=CC(=C(C=C1F)C=1N=C(C2=C(N1)CS(C2)(=O)=O)N2CCC(CC2)NCCO)F | InChI=1S/C19H21ClF2N4O3S.2ClH/c20-14-8-15(21)12(7-16(14)22)18-24-17-10-30(28,29)9-13(17)19(25-18)26-4-1-11(2-5-26)23-3-6-27;;/h7-8,11,23,27H,1-6,9-10H2;2*1H
